US04720495
To 4.02 g (0.01 mole) of 9-chloro-5-methyl-8-(3-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester was added 120 ml of a mixture of 1N aqueous sodium hydroxide and ethanol (with a volume ratio of 5:1). This mixture was stirred at 20°-25° C. for 2 hours to hydrolyze the starting material. The resulting reaction solution was adjusted to pH 6-7 by the addition of 1N hydrochloric acid under cooling with ice. This solution was concentrated under reduced pressure, the resulting residue was purified by silica gel column chromatography [using a chloroform-methanol mixture (with a volume ratio of 2:1) as the developing solvent], and the fraction containing the desired product was collected. This fraction was evaporated to dryness under reduced pressure and the resulting residue was recrystallized from ethanol to obtain 2.89 g (77.3% yield) of 9-chloro-5-methyl-8-(3-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij] quinolizine-2-carboxylic acid in the form of pale-yellow crystals. These crystals had a melting point of 200°-205° C. (dec.).

reactant | 9-chloro-5-methyl-8-(3-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester | 0.01 mole, 4.02 g | C(C)OC(=O)C1=CN2C(C=CC3=C2C(C1=O)=CC(=C3N3CC(NCC3)C)Cl)C | C21H24ClN3O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 9-chloro-5-methyl-8-(3-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij] quinolizine-2-carboxylic acid | 2.89 g, 77.3% yield | ClC1=C(C=2C=CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CC(NCC1)C | C19H20ClN3O3
